* Z:\home\alowell\pcm3168a_euro1\spice\diff_amp_sim2.asc
XU1 N007 N008 5V 0 N001 N009 2.5V OPA1637
V1 5V 0 5
V2 2.5V 0 2.5
V3 N005 0 SINE(0 1 1k) AC 1
E1 N011 0 N005 0 1
E2 N002 0 N005 0 -1
R7 N004 N003 1.1k
R8 N013 N012 1.1k
C4 N004 N013 6.8n
C1 N001 N008 1n
R1 N001 N004 1.1k
R2 N008 N004 560
C2 N007 N009 1n
R3 N013 N009 1.1k
R4 N007 N013 560
C3 N006 N010 39n
R5 N006 N001 47
R6 N010 N009 47
C5 N003 N002 47µ
C6 N012 N011 47µ
.ac dec 10 1 10Meg
;tran 10m
.lib Z:\home\alowell\Downloads\sbombf8a\OPA1637.LIB
.backanno
.end
